US07517889B2
To a solution of 5-bromo-2-chloro-benzoic acid methyl ester (5 g) in diethyl ether (200 mL) cooled to −70° C. is added 3 M methylmagnesium bromide in THF (20 mL) dropwisely. The solution is stirred at −78° C. for 2 h and allowed to warm to room temperature for 16 hours. The solution is cooled to 0° C. and 1 N HCl (100 mL) is added dropwisely. The mixture is extracted with EtOAc (2×150 mL). The combined organic layer is washed with brine, dried over sodium sulfate, filtered and evaporated in vacuo. The residue is chromatographed on silica gel eluting with 20% EtOAc in heptane to afford 2-(5-bromo-2-chloro-phenyl)-propan-2-ol (4.56 g). MS: 250 (M+H); 1H NMR (300 MHz, CDCl3) □7.8 (m, 1H); 7.5 (m, 1H); 7.2 (m, 1H); 4.4 (s, 1H); 1.6 (s, 6H).

reactant | 5-bromo-2-chloro-benzoic acid methyl ester | 5 g | COC(C1=C(C=CC(=C1)Br)Cl)=O | C8H6BrClO2
reactant | methylmagnesium bromide | 3 M | C[Mg]Br
reactant | HCl | 1 N, 100 mL | Cl | ClH
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(5-bromo-2-chloro-phenyl)-propan-2-ol | 4.56 g | BrC=1C=CC(=C(C1)C(C)(C)O)Cl | C9H10BrClO
